US07407961B2
3-Amino-6-(6-methoxy-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile (370 mg) was dissolved in 1,2-dichloroethane (37 ml). To the solution was added 1M boron tribromide solution in CH2Cl2 (12.2 ml) The mixture was stirred at 80° C. for 24 hours. The mixture was cooled to 20-25° C., and portioned to EtOAc and water. The organic layer was separated. The aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine, and dried over MgSO4. Evaporation of solvent in vacuo gave reddish solid residue. The residue was pulverized with water, to give 3-amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile as powder (254 mg).

reactant | 3-Amino-6-(6-methoxy-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile | 370 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C=1C=NC(=CC1)OC)C#N | C17H13N5O
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 37 ml | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | 12.2 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarbonitrile | 254 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CNC(C=C1)=O)C#N | C16H11N5O
